US04675332
A suspension of 3.9 g (0.081 mole) of 50% sodium hydride/mineral oil in 85 ml of N,N-dimethylformamide under a nitrogen atmosphere was cooled in ice and treated portionwise over 90 minutes with 17.1 g (0.064 mole) of 3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester [P. Friedlander and K. Kunz, Chem. Ber., 55, 1597 (1922)]. The mixture was stirred in ice an additional one hour, 7.9 ml (10.5 g; 0.083 mole) of dimethyl sulfate was added dropwise over 15 minutes, the ice bath was removed, and stirring was continued for a total of 65 hours. The reaction mixture was added to 600 g of ice/water, acidified with 4.0N hydrochloric acid, and extracted with dichloromethane (4×250 ml). The combined organic layers were washed with water (3×500 ml), dried (anhydrous sodium sulfate), and evaporated to yield a crude residue of 3-methoxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester, plus a small amount of N,N-dimethylformamide.

reactant | sodium hydride | 0.081 mole, 3.9 g | [H-].[Na+]
reactant | 3-hydroxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester | 0.064 mole, 17.1 g | COC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1 | C16H13NO3
reactant | dimethyl sulfate | 0.083 mole, 7.9 ml, 10.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | N,N-dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-1-phenyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=CC=C2C1OC)C1=CC=CC=C1 | C17H15NO3
